US06268448B1
Diethyl(trimethylsilylamino)(trimethylsilylimino)phosphorane (2)
This compound was synthesized as above by using Et2PH instead of Ph2PH. Et2PH (2.00 mL, 17.4 mmol, d=0.7862) and N3SiMe3 (5.00 mL, 35.8 mmol, d=0.868, 95%) were refluxed overnight in a round bottom flask with a reflux condenser under a positive pressure of nitrogen. After 12 hours the product was distilled through a short path distillation apparatus (0.01 mm, 56-60° C.) to yield a clear liquid (3.30 g, 72%). 1H NMR (C6D6): δ 1.12 (overlapping dq, CH2, 4H), 0.84 (overlapping dt, CH3, JHP=17.3 Hz, JHH=7.4 Hz, 6H), 0.73 (br s, NH, 1H), 0.29 (s, SiCH3, 18H). 13C{1H} NMR (C6D6): δ 26.6 (d, PCH2CH3, JCP=78.2 Hz), 6.5 (d, PCH2CH3, JCP=3.7 Hz), 3.3 (exchange broadened s, SiMe3); 31P{1H} NMR (C6D6): δ 20.1. Analysis calculated for C10H29N2PSi2: C, 45.41; H, 6.06; N, 4.81. Found: C, 68.73; H, 6.13; N, 4.73.

reactant | Et2PH | P(CC)CC | C4H11P
reactant | Et2PH | 17.4 mmol, 2.00 mL | P(CC)CC | C4H11P
reactant | N3SiMe3 | 35.8 mmol, 5.00 mL | N(=[N+]=[N-])[Si](C)(C)C | C3H9N3Si
product | Diethyl(trimethylsilylamino)(trimethylsilylimino)phosphorane | 3.30 g, 72% | C(C)P(=N[Si](C)(C)C)(N[Si](C)(C)C)CC | C10H29N2PSi2
